US06989393B2
2-Amino-4-cyano-1-N-[1-(3,3-diphenylpropyl)-piperidin-4-yl]aniline
To a stirred solution of 4-cyano-2-nitro-1-N-[1-(3,3-diphenylpropyl)-piperidin-4-yl]aniline (300 mg, 0.68 mmol) in methanol (4 ml) was added concentrated HCl (1 ml) followed by stannous chloride dihydrate (620 mg) and the mixture was heated to 95° C. After 3 h the reaction mixture was concentrated and suspended in water (100 ml) and potassium carbonate was added to basify the solution. The solution was extracted with EtOAc (150 ml) and the emulsion left to separate. The mixture was then filtered through Celite™, separated. dried (MgSO4), concentrated and purified by Bond Elut™ chromatography (using 1% to 7.5% EtOH in DCM) to give the title compound as an oil (60 mg, 0.15 mmol); MS: 411.

reactant | 4-cyano-2-nitro-1-N-[1-(3,3-diphenylpropyl)-piperidin-4-yl]aniline | 0.68 mmol, 300 mg | C(#N)C1=CC(=C(NC2CCN(CC2)CCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C27H28N4O2
reactant | HCl | 1 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 2-Amino-4-cyano-1-N-[1-(3,3-diphenylpropyl)-piperidin-4-yl]aniline | 0.15 mmol, 60 mg | NC1=C(NC2CCN(CC2)CCC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)C#N | C27H30N4
